Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
latex / amitriptyline / fluoxetine / morphine / piroxicam
 
Attending: ___.
 
Chief Complaint:
L MCA aneurysm 
 
Major Surgical or Invasive Procedure:
___ L craniotomy for MCA aneurysm clipping 
 
History of Present Illness:
___ female previous smoker with no known family history 
of intracranial aneurysm who was being worked up for a couple of 
episodes of confusion, and speaking gibberish. In the process of 
evaluation a left middle cerebral artery aneurysms was 
identified. The lesion appears to be approximately 6-7 mm in 
diameter. The patient was seen in the ___ clinic and a 
long discussion was had with her and her son regarding the 
natural history of aneurysms as well as potential treatment 
options of endovascular and surgical management. She underwent 
angiogram and presents for elective clipping of the MCA 
aneurysm. 

 
Past Medical History:
MCA aneurysm
dyslipidemia
PAF stable on beta blocker
COPD
HTN
Lung mass
OA
Lumbar DJD with neurogenic claudication
TIA
epilepsy
T2DM
 
Social History:
___
Family History:
No known family history of intracranial aneurysms. 
 
Physical Exam:
On Admission: 

Opens eyes: [ ]spontaneous [x]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time Required cues to focus 
on
exam/questions. 

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right    3-2mm                 Left  3-2mm 

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

=============
ON DISCHARGE:
=============

Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x] Place [x] Date

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right    3-2mm   Left  3-2mm 

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: L crani: [x]Clean, dry, intact with sutures 

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
Ms. ___ presents for elective clipping of the left MCA 
aneurysm. 

#L MCA aneurysm
She was taken to the OR on ___ and underwent left craniotomy 
for aneurysm clipping with Dr. ___. The procedure was 
uncomplicated. Please see separately dictated operative report 
by Dr. ___ complete details of the procedure. She 
tolerated the procedure well. She was extubated in the OR and 
transferred to PACU for recovery. She remained neurologically 
stable and was transferred to the neuro step-down unit for close 
monitoring. She was cleared to resume home Aspirin on POD#7. Per 
discussion with her PCP's office, Plavix is no longer needed and 
can be discontinued. 

#Seizures/epilepsy 
She takes Lamotrigine at home for h/o seizures. On POD#2 (___) 
she had 3 episodes of unresponsiveness with oxygen desaturations 
to the ___, lasting about 1 minute. She received 0.5mg Ativan to 
break the seizure, however her exam remained altered with 
aphasia after unresponsiveness and oxygen improved with 
supplemental oxygen. Head CT was stable with postop changes but 
no acute complication. EEG was placed and captured seizure 
activity which correlated with unresponsiveness. She was loaded 
with 2g keppra then 1500mg bid and her lamictal 150mg BID was 
continued. Her mental status remained altered. Neurology consult 
was placed for additional AED recommendations and EEG was 
placed, which was positive for seizure activity. On ___, she 
became acutely agitated and received 0.5mg Ativan and 0.25mg 
Haldol, however this agitation was unrelated to seizure. On ___, 
EEG was read as generalized slowing with frequent epileptiform 
discharges in temporal region (L > R), without overt seizure 
activity.

#COPD/Respiratory distress
She was initially continued on her home COPD inhaler medications 
without issue. However, during the episode of agitation on ___, 
she was tachypneic and in respiratory distress, for which ___ 
was consulted. She was also febrile to 102 and her SpO2 was 92% 
on RA. A CXR showed mild-moderate pulmonary edema, ABG showed 
PaO2 of 60. She was started on face mask with 50% FiO2, given 
20mg IV Lasix, and started on broad spectrum antibiotics to 
cover for pneumonia. She was transferred to Neuro ICU for 
complicated respiratory status. In the ICU, she was redosed with 
20mg IV Lasix, which was continued BID, and she was weaned to 2L 
NC. 

#Fever
She was initially started on vancomycin and zosyn when found to 
be febrile on ___, and it was determined that she should 
complete a 7 day course of antibiotics. She was transitioned to 
___ugmentin on ___.

#Hypertension 
Continue on home medications. She required nicardipine 
postoperatively but this was weaned off POD#1. She continued to 
be hypertensive despite IV hydralzine, and amlodipine was 
increased to 5mg daily. 

 
Medications on Admission:
albuterol sulfate [Ventolin HFA] 2puffs PRN 
amlodipine 2.5mg daily 
atenolol 150 mg tablet daily 
atorvastatin 60mg daily  
buspirone 10 mg tablet BID PRN 
clopidogrel 75 mg tablet daily 
Flovent HFA 110 mcg 2 INH twice a day 
furosemide 20 mg tablet daily 
gabapentin 300 mg capsule TID 
lamotrigine 100 mg tablet BID
paroxetine 20 mg tablet daily 
aspirin 325 mg tablet daily 
cholecalciferol (vitamin D3) 1,000 unit capsule daily 
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 5 Doses 

Please take at: 
___ and 8pm
___ and 8pm  
2.  Bisacodyl 10 mg PR QHS  
3.  Docusate Sodium 100 mg PO BID  
4.  LevETIRAcetam 1500 mg PO BID  
5.  Ondansetron 4 mg IV Q8H:PRN nausea  
6.  Senna 17.2 mg PO QHS  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
8.  amLODIPine 2.5 mg PO DAILY  
9.  Aspirin 325 mg PO DAILY  
10.  Atenolol 150 mg PO DAILY  
11.  Atorvastatin 60 mg PO QPM  
12.  BusPIRone 10 mg PO BID:PRN anxiety  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
14.  Furosemide 20 mg PO DAILY  
15.  Gabapentin 300 mg PO TID  
16.  LamoTRIgine 150 mg PO BID  
17.  PARoxetine 20 mg PO DAILY  
18.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
L MCA aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Elective Aneurysm Clipping
Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you experience:
-Any neurological issues, such as change in vision, speech or 
movement
-Swelling, drainage, or redness of your incision
-Any problems with medications, such as nausea vomiting or 
lethargy
-Fever greater than 101.5 degrees Fahrenheit
-Headaches not relieved with prescribed medications

Medications: 
-Because you had a seizure while you were in the hospital, you 
are now taking Keppra(Levetiracetam)and will be discharged home 
with a script to continue on this medication, along with your 
lamictal. Please follow the instructions to take this new 
medication. 
-You may resume your Aspirin 325mg, but please do NOT take your 
Plavix (clopidogrel)75mg any more.  
-You also will have a script for an antibiotic (amoxicillin 
clavulanate) to help with your pneumonia. You have three days 
remaining on this medication, please take this medication as 
well. 

Activity:
-Start to resume all activities as you tolerate – but start 
slowly and increase at your own pace.
-Do not operate any motorized vehicle for at least 10 days after 
your surgery – your Nurse Practitioner can give you more detail 
at the time of your suture removal.  

Incision Care:
-Keep your wound clean and dry.
-Do not use shampoo until your sutures are removed. 
-When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.
-Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.
-You need your sutures removed 7 to 10 days after surgery

Post-Operative Experiences: Physical
-Jaw pain on the same side as your surgery; this goes away after 
about a month
-You may experience constipation.  Constipation can be prevented 
by:
oDrinking plenty of fluids
oIncreasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements
oExercising
oUsing over-the-counter bowel stimulants or laxatives as needed, 
stopping usage if you experience loose bowel movements or 
diarrhea
-Fatigue which will slowly resolve over time
-Numbness or tingling in the area of the incision; this can take 
weeks or months to fully resolve
-Muffled hearing in the ear near the incision area
-Low back pain or shooting pain down the leg which can resolve 
with increased activity

Post-Operative Experiences: Emotional
-You may experience depression.  Symptoms of depression can 
include
oFeeling “down” or sad
oIrritability, frustration, and confusion
oDistractibility
oLower Self-Esteem/Relationship Challenges
oInsomnia
oLoneliness
-If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist
-You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation
oMore information can be found at ___

 
Followup Instructions:
___